US08748632B2
To a solution of methyl cyclopentyl(3-methoxyphenethyl)carbamate (1.39 g, 5 mmol) in POCl3 (20 mL) was added P2O5 (1.4 g, 10 mmol). The reaction mixture was heated at reflux for 2 h. Excess POCl3 was removed under reduced pressure and the residue was quenched with ice water. The mixture was neutralized with Na2CO3 and extracted with ethyl acetate. The organic phase was dried over Na2SO4. Removal of the solvent in vacuo followed by chromato-graphic purification afforded 2-cyclopentyl-6-methoxy-3,4-dihydroisoquinolin-1(2H)-one 1H NMR (400 MHz, CDCl3): δ 8.00 (d, 1H, J=8.6 Hz), 6.81 (d, 1H, J=8.6 Hz), 6.63 (s, 1H), 5.18-5.14 (m, 1H), 3.85 (t, 1H, J=6.7 Hz), 2.88 (t, 1H, J=6.7 Hz), 1.88-1.70 (m, 2H), 1.64-1.63 (m, 4H), 1.62-1.61 (m, 2H). LC-MS (ESI) Calcd for C15H19NO2 [M+H]+: 246.14. Found: 246.00.

reactant | methyl cyclopentyl(3-methoxyphenethyl)carbamate | 5 mmol, 1.39 g | C1(CCCC1)N(C(OC)=O)CCC1=CC(=CC=C1)OC | C16H23NO3
reactant | P2O5 | 10 mmol, 1.4 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-cyclopentyl-6-methoxy-3,4-dihydroisoquinolin-1(2H)-one | C1(CCCC1)N1C(C2=CC=C(C=C2CC1)OC)=O | C15H19NO2
